US07737149B2
Sodium hydride (0.857 g, 21.42 mmol) was added portionwise to stirred Et2O (23.0 ml) at 25° C. under nitrogen. A solution of (1,4-dibenzylpiperazin-2-yl)methanol (1.411 g, 4.76 mmol) in DMF (8.0 ml) was added portionwise under nitrogen. The resulting suspension was stirred at room temperature for 1 h. A solution of methyl iodide (0.454 ml, 7.28 mmol) in Et2O (7.0 ml) was added dropwise to the reaction mixture at 10° C., under nitrogen. The resulting mixture was stirred at room temperature for 21 h. The reaction mixture was quenched with water (35 mL and extracted with Et2O (3×50 mL). The organic layers were combined and washed with water (50 mL), dried over MgSO4, filtered and evaporated to afford 1,4-dibenzyl-2-(methoxymethyl)piperazine (1.580 g, 107%) as a yellow oil. This was used directly without further purification.

reactant | Sodium hydride | 21.42 mmol, 0.857 g | [H-].[Na+]
reactant | (1,4-dibenzylpiperazin-2-yl)methanol | 4.76 mmol, 1.411 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | methyl iodide | 7.28 mmol, 0.454 ml | CI | CH3I
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
solvent | Et2O | 7.0 ml | CCOCC | C4H10O
solvent | Et2O | 23.0 ml | CCOCC | C4H10O
product | 1,4-dibenzyl-2-(methoxymethyl)piperazine | 1.580 g, 107% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)COC | C20H26N2O
